US08067620B2
Step 1. To a solution of morpholine (1.0 g, 11.47 mmol) and 1-chloro-3-iodopropane (2.35 g, 11.5 mmol) in dry THF (30 ml) was added activated zinc powder (0.75 g, 11.47 mmol). After the mixture was stirred at rt overnight, it was filtered, washed with EtOAc (20 ml), and concentrated. The residue was dissolved in EtOAc (50 ml), washed with 10% aq. NaHCO3 (10 ml), water (2×10 ml), dried over MgSO4, and concentrated. The residue was dissolved in ether (20 ml) before a 1 M ethereal HCl solution (11.5 ml, 11.5 mmol) was added dropwise at 0° C. The resulting precipitate was filtered, washed with ether (2×10 ml), and dried to afford 4-(3-chloropropyl)morpholine hydrochloride (0.70 g, 31%) as a colorless solid. 1H NMR (500 MHz, DMSO-d6) δ 2.17-2.28 (m, 2H), 3.01-3.09 (m, 2H), 3.15-3.19 (m, 2H), 3.39-3.42 (m, 2H), 3.76 (t, J=6.4 Hz, 2H), 3.81-3.86 (m, 2H), 3.92-3.96 (m, 2H), 11.46 (brs, 1H). Step 2. To a solution of OZ288 (0.50 g, 1.40 mmol) in dry acetonitrile (50 ml) were added powdered NaOH (0.225 g, 5.61 mmol) and tetrabutylammonium hydrogensulfate (0.1 g, 0.28 mmol). After the reaction mixture was stirred at rt for 30 min, 4-(3-chloropropyl)morpholine hydrochloride (0.25 g, 1.26 mmol) was added. The mixture was stirred at 60° C. overnight before the inorganic solid was filtered off and washed with EtOAc (2×25 ml). After removal of the solvents in vacuo, the residue was dissolved in EtOAc (50 ml). The organic layer was washed with water, brine, dried over MgSO4, and concentrated. After the residue was dissolved in EtOAc (20 ml), a solution of methanesulfonic acid (0.14 g, 1.40 mmol) in ether (10 ml) was added dropwise at 0° C. The resulting precipitate was filtered, washed with ether (25 ml), and dried in vacuo at 40° C. to afford trioxolane OZ461 (0.475 g, 58%) as a colorless solid. mp 158-160° C.; 1H NMR (500 MHz, CDCl3) δ 1.61-2.07 (m, 22H), 2.32-2.40 (m, 2H), 2.44-2.55 (m, 1H), 2.79 (s, 3H), 2.88-2.98 (m, 2H), 3.22-3.31 (m, 2H), 3.57 (d, J=12.2 Hz, 2H), 3.97-4.18 (m, 6H), 6.79 (d, J=8.8 Hz, 2H), 7.11 (d, J=8.8 Hz, 2H), 11.39 (brs, 1H); 13C NMR (125.7 MHz, CDCl3) δ 23.63, 26.41, 26.80, 31.54, 34.63, 34.73, 36.34, 36.72, 39.37, 41.93, 52.23, 55.81, 63.69, 64.51, 108.29, 111.32, 114.20, 127.71, 139.10, 156.40. Anal. Calcd for C30H45NO8S: C, 62.15; H, 7.82; N, 2.42. Found: C, 62.05; H, 7.63; N, 2.51.

reactant | OZ288 | 1.40 mmol, 0.50 g | C=1C(=CC=C(C1)O)[C@H]2CC[C@@]3(OO[C@@]4(O3)C5CC6CC4CC(C5)C6)CC2 | C22H28O4
reactant | NaOH | 5.61 mmol, 0.225 g | [OH-].[Na+]
reactant | 4-(3-chloropropyl)morpholine hydrochloride | 1.26 mmol, 0.25 g | Cl.ClCCCN1CCOCC1
reactant | methanesulfonic acid | 1.40 mmol, 0.14 g | CS(=O)(=O)O | CH4O3S
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium hydrogensulfate | 0.28 mmol, 0.1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ether | 10 ml | CCOCC | C4H10O
product | trioxolane | CC(N)(CNC(=O)C[C@H]1CC[C@]2(OOC3(O2)C4CC5CC3CC(C4)C5)CC1)C | C22H36N2O4
